US07053082B1
5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4.5-h][2,3]benzodiazepine-8-carboxylic acid-amide
4.17 g (10.0 millimoles) of 5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine-8-carboxylic acid-imidazolide are suspended in a mixture of 85 ml dichloro methane and 15 ml of a 15% aqueous methanolic ammonia solution. The reaction mixture is sealed and stirred at room temperature for 6 hours. The mixture is cooled with icecold water. The precipitated product is filtered and washed with 20 ml of diethyl ether. Thus 3.11 g of the desired compound are obtained, yield 85%, mp.: 266–268° C.

reactant | 5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine-8-carboxylic acid imidazolide | 10.0 millimoles, 4.17 g | CC=1C=C(C=CC1[N+](=O)[O-])C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C(=O)O.[N-]1C=NC=C1
reactant | ammonia | N | H3N
reactant | water | O | H2O
solvent | dichloro methane | 85 ml | ClCCl | CH2Cl2
product | 5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4.5-h][2,3]benzodiazepine-8-carboxylic acid-amide | 3.11 g, yield 85% | CC=1C=C(C=CC1[N+](=O)[O-])C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C(=O)N | C18H14N4O5
